US07754737B2
Step 1. Ethyl 3-benzoylbenzoate
A 100-mL round bottom flask was charged with of 3-benzoylbenzoic acid (2.20 g, 9.7 mmol), ethanol (40 mL), and sulfuric acid (3 mL). The reaction mixture was heated at 100° C. for 15 h, poured into ice water and extracted twice with Et2O. The combined organic phase was washed with satd aq NaHCO3 and dried over K2CO3. The crude ethyl 3-benzoylbenzoate was used in the next step without further purification. LC-MS (3 min) tR=1.87 min in 3 min chromatography, m/z 255 (MH+). 1H NMR (400 MHz, CDCl3) δ 8.45-8.44 (m, 1H), 8.28-8.25 (m, 1H), 8.00-7.97 (m, 1H), 7.82-7.79 (m, 2H), 7.64-7.48 (m, 4H), 4.40 (q, J=7.1 Hz, 2H), 1.40 (t, J=7.2 Hz, 3H).

reactant | 3-benzoylbenzoic acid | 9.7 mmol, 2.20 g | C(C1=CC=CC=C1)(=O)C=1C=C(C(=O)O)C=CC1 | C14H10O3
reactant | sulfuric acid | 3 mL | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 40 mL | C(C)O | C2H6O
product | Ethyl 3-benzoylbenzoate | C(C1=CC=CC=C1)(=O)C=1C=C(C(=O)OCC)C=CC1 | C16H14O3
